US20010009952A1
A polyfunctional urethane acrylate was prepared according to the following procedure. Into a 2 liter flask equipped with stirring, temperature control, and nitrogen inert gas was charged 277 grams of isophorone diisocyanate and 2.9 grams of monomethyl ether of hydroquinone. The reaction was heated to 65° C. and 11 grams of trimethylolpropane was charged. The reaction was heated to 70° C. and held for 1 hour, at which time the % isocyanate was measured at 31.3%. Next 1285.5 grams of pentaerythritol triacrylate available from was charged. A gas sparge was initiated which was comprised of 2:1 by volume mix of nitrogen and air.

reactant | isophorone diisocyanate | 277 grams | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | monomethyl ether | 2.9 grams | COC | C2H6O
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | trimethylolpropane | 11 grams | C(O)C(CC)(CO)CO | C6H14O3
reactant | isocyanate | [N-]=C=O
reactant | pentaerythritol triacrylate | 1285.5 grams | C(C=C)(=O)OCC(COC(C=C)=O)(COC(C=C)=O)CO | C14H18O7
product | urethane acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
